US05025031
1,1-Dimethyl-2-phenoxyethanol
To a stirred solution of 24.2 g (0.16 mole) of phenoxy-2-propanone (Eastman) in 150 mL of dry ethyl ether was added 56 ml (0.17 mole) of methylmagnesium bromide (3.0M solution in ethyl ether, Aldrich) and the reaction mixture was stirred at ambient temperature under a nitrogen atmosphere for 4 hr. The reaction mixture was treated with 100 ml of saturated ammonium chloride solution and vigorously stirred for 1 hr. The layers were separated and the organic layer was washed twice with 200 ml portions of water, dried (magnesium sulfate) and the solvent evaporated under reduced pressure to yield 24.3 g (91%) of a vicous oil. A 2.3 g sample of the oil was purified by high pressure liquid chromatography (Waters Associates Prep LC/System 500 A; PrepPAK® 500 silica; ethyl acetate-hexanes, 1:20; flow rate 150 ml/min). The desired fractions were combined and the solvents evaporated under reduced pressure to yield 2.1 g (91% recovery) of the title compound as a colorless liquid.

reactant | phenoxy-2-propanone | 0.16 mole, 24.2 g | O(C1=CC=CC=C1)CC(C)=O | C9H10O2
reactant | methylmagnesium bromide | 0.17 mole, 3.0M, 56 ml | C[Mg]Br
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | ethyl ether | 150 mL | C(C)OCC | C4H10O
product | 1,1-Dimethyl-2-phenoxyethanol | 24.3 g, 91% | CC(COC1=CC=CC=C1)(O)C | C10H14O2
